* C:\Users\Charly\Desktop\labo6-7\Draft1.asc
C1 N003 0 464n
R1 0 N003 1k
R2 N001 N002 100000k
C2 N001 N002 5n
R3 N002 N003 56.07
C3 N001 0 4p
V1 N001 0 AC 1
.ac dec 10 20 200k
.backanno
.end
